US05780472
1-[(5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine
Phenyl-N-(5-ethyl-6-methylpyridin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C=NC(=C(C1)CC)C)=O | C15H16N2O2
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 80% | C(C)C=1C=C(C=NC1C)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C20H26N4O2
